US05047411
A solution of 2-[2-(4-aminophenyl)ethyl]-7-methylimidazo[1,2-a]pyridine (2.5 g) and ammonium thiocyanate (1.5 g) in acetic acid (25 ml) was stirred at ambient temperature for 1 hour. A solution of bromine (0.6 ml) in acetic acid (3 ml) was dropwise added thereto at 15° to 18° C. under stirring and the resulting mixture was stirred at 10° to 20° C. for 1 hour. A mixture of ethyl acetate and water was added to the reaction mixture and the mixture was adjusted to pH 7.5 with potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The crude product obtained by concentration was purified by silica gel column chromatography eluting with a mixture of chloroform and methanol (19:1 V/V). The eluted fractions containing desired product were evaporated to give 6-[2-(7-methylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzothiazole (0.43 g).

reactant | 2-[2-(4-aminophenyl)ethyl]-7-methylimidazo[1,2-a]pyridine | 2.5 g | NC1=CC=C(C=C1)CCC=1N=C2N(C=CC(=C2)C)C1 | C16H17N3
reactant | ammonium thiocyanate | 1.5 g | [S-]C#N.[NH4+]
reactant | bromine | 0.6 ml | BrBr | Br2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[2-(7-methylimidazo[1,2-a]pyridin-2-yl)ethyl]-2-aminobenzothiazole | 0.43 g | CC1=CC=2N(C=C1)C=C(N2)CCC2=CC1=C(N=C(S1)N)C=C2 | C17H16N4S
